US08071581B2
Step 3: [6-(1-Methyl-1H-pyrazol-4-yl)-pyrrolo[3,2-b]pyridin-1-yl]-acetic acid ethyl ester
In a N2 charged round bottom flask, Sodium Hydride, 60%, (41 mg, 1.01 mmol) was suspended in dimethylformamide (2.5 mL). The solution was maintained under N2 and cooled to 0° C. for 10 minutes. Next, 6-(1-Methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-b]pyridine (200 mg, 1.01 mmol) was dissolved in dimethylformamide (2.5 mL) and added to the cooled solution dropwise. The solution was allowed to stir at 0° C. for an additional 10 minutes. Finally, Bromo-acetic acid ethyl ester (123 uL, 1.11 mmol) was slowly added to the reaction vessel. The reaction was allowed to equilibrate back to room temperature, while stirring for 2 hours. Finally, the solution was transferred to a separatory funnel with dichloromethane (75 mL) and washed with water (2×75 mL). The organic layer was dried over Na2SO4, concentrated down and purified by flash chromatography (0-10% Methanol/dichloromethane step gradient) to afford the title compound (122 mg, 43% yield). MS m/z=285 [M+H+]+

reactant | Sodium Hydride | [H-].[Na+]
reactant | 6-(1-Methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-b]pyridine | 1.01 mmol, 200 mg | CN1N=CC(=C1)C=1C=C2C(=NC1)C=CN2 | C11H10N4
reactant | Bromo-acetic acid ethyl ester | 1.11 mmol, 123 uL | C(C)OC(CBr)=O | C4H7BrO2
reactant | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | [6-(1-Methyl-1H-pyrazol-4-yl)-pyrrolo[3,2-b]pyridin-1-yl]-acetic acid ethyl ester | 122 mg, 43% yield | C(C)OC(CN1C=CC2=NC=C(C=C21)C=2C=NN(C2)C)=O | C15H16N4O2
